US07230001B1
4-(3-bromo-4-fluorophenyl)-4-oxobutanoic acid
A solution of 6.2 g (0.023 mol) of (E)-4-(3-bromo-4-fluorophenyl)-4-oxo-2-butenoic acid in a mixture of 200 ml ethanol and 25 ml tetrahydrofuran was hydrogenated in the presence of 1.0 g of 10% platinum/charcoal at ambient temperature under a pressure of 50 psi until the uptake of hydrogen was complete. The residue remaining after the catalyst and solvent had been eliminated crystallised spontaneously and after being washed thoroughly with diisopropylether yielded 1.7 g (27% of theoretical) of colourless crystals, m.p. 108–110° C. and Rf 0.73 (El F).

reactant | (E)-4-(3-bromo-4-fluorophenyl)-4-oxo-2-butenoic acid | 0.023 mol, 6.2 g | BrC=1C=C(C=CC1F)C(/C=C/C(=O)O)=O | C10H6BrFO3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
catalyst | platinum/charcoal | 1.0 g | [Pt] | Pt
product | 4-(3-bromo-4-fluorophenyl)-4-oxobutanoic acid | BrC=1C=C(C=CC1F)C(CCC(=O)O)=O | C10H8BrFO3
